US07741485B2
2-Chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]-benzenesulfonamide
With stirring, 1.6 g (93.8 mmol) of ammonia gas were, at 0° C., introduced into a mixture of 18 g (44.6 mmol) of 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]-benzenesulfonylchloride in tetrahydrofuran (THF). Then, at 10° C., ethyl acetate was added and the mixture was acidified with 1N hydrochloric acid. The phases were separated and the aqueous phase was extracted, and the combined organic phases were then washed, dried and the solvent was removed. Customary purification methods gave 14.4 g (82.4% of theory) of the title compound (m.p.: 257-258° C.).

reactant | ammonia | 93.8 mmol, 1.6 g | N | H3N
reactant | 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]-benzenesulfonylchloride | 44.6 mmol, 18 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)S(=O)(=O)Cl | C12H7Cl2F3N2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]-benzenesulfonamide | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)S(=O)(=O)N | C12H9ClF3N3O4S
